US06177440B1
To a solution of 9-[(3-methylphenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one (1.41 g, 3.89 mM) in 13 ml dioxane was added 60% sodium hydride in mineral oil (0.36 g, 8.95 mM). The reaction was stirred 6 minutes, then methyl benzenesulfinate (0.81 ml, 6.22 mM) was added. The reaction was stirred an additional 6 hours, then diluted with 20 ml dioxane and 0.51 ml acetic acid. The mixture was refluxed 30 minutes, diluted with ethyl acetate, and extracted with saturated NaHCO3, brine, then water. After drying (NaSO4), evaporation in vacuo afforded 2.30 g. The mixture was purified by column chromatography on silica gel (elution with toluene/methylene chloride) to afford 0.92 g (66%) of 9-[(3-methylphenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole. 1H NMR (CDCl3) δ 10.45 (s, 1H), 8.0 (d, J=8 Hz, 1H), 7.55 (d, J=8 Hz, 1H), 7.4 (dd, J=8 and 8 Hz, 1H), 7.4 (dd, J=8 and 8 Hz, 1H), 7.05 (d, J=8 HZ, 1H), 6.9 (s, 1H), 6.85 (d, J=8 Hz, 1H), 6.75 (s, 1H), 6.7 (s, 1H), 5.45 (s, 2H), 4.1 (s, 3H), 2.4 (s, 3H), 2.25 (s, 3H). MS (ES) m/e 328, 360.

reactant | 9-[(3-methylphenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one | 3.89 mM, 1.41 g | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CC(CC12)C)=O)C(=O)OC | C23H23NO3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl benzenesulfinate | 6.22 mM, 0.81 ml | C1(=CC=CC=C1)S(=O)OC | C7H8O2S
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.51 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3-methylphenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole | 0.92 g, 66% | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(=O)OC | C23H21NO3
